US05180419
Preparation of Diethyl 4-hydroxy-5-nitrophthalate
A stirred mixture of nitro-2-propanone (63.50 g, 0.616 mol), (ethoxymethylene)oxalacetic acid, diethyl ester (151.1 g, 0.616 mol) and ethanol at 5° C. under a nitrogen atmosphere is treated with sodium acetate (101.1 g, 1.23 mol), stirred overnight at room temperature, and concentrated in vacuo. The resultant residue is chromatographed (silica gel, 1% ethyl acetate:hexanes eluent). The chromatographed material is taken up in ethyl acetate and extracted with an equivalent of aqueous sodium hydroxide. The basic layer is acidified to pH 2-3 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic extract is dried and concentrated in vacuo to give the title product as a yellow oil, 16.0 g, identified by NMR and mass spectral analyses.

reactant | nitro-2-propanone | 0.616 mol, 63.50 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | (ethoxymethylene)oxalacetic acid, diethyl ester | 0.616 mol, 151.1 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | sodium acetate | 1.23 mol, 101.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Diethyl 4-hydroxy-5-nitrophthalate | OC=1C=C(C(C(=O)OCC)=CC1[N+](=O)[O-])C(=O)OCC | C12H13NO7
